US08013008B2
benzyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-isopropylpyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (7.40 g), 0.5 mol/L cyclopropylmagnesium bromide—THF solution (52.8 mL) and benzyl (2S)-2-isopropyl-3-oxopyrrolidine-1-carboxylate (3.14 g), the title compound was obtained as colorless oil (yield: 2.31 g, yield: 63%).

reactant | cerium chloride | 7.40 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | cyclopropylmagnesium bromide THF | 0.5 mol/L, 52.8 mL | C1(CC1)[Mg]Br.C1CCOC1
reactant | benzyl (2S)-2-isopropyl-3-oxopyrrolidine-1-carboxylate | 3.14 g | C(C)(C)[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C15H19NO3
product | benzyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-isopropylpyrrolidine-1-carboxylate | C1(CC1)[C@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C(C)C)O | C18H25NO3
